US08492414B2
5-(4-Benzyloxyphenyl)-[1,3,4]oxathiazol-2-one
To a solution of 4-benzyloxybenzamide (0.25 g, 1.10 mmol) in toluene (15 ml) was added chlorocarbonylsulfenyl chloride (0.18 ml, 2.20 mmol) and the resulting reaction mixture was refluxed at 90° C. overnight. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added diethyl ether and washed twice with water, twice with 5% NaHCO3, again with water, and was then dried (Na2SO4), concentrated under vacuum to give the product (crude yield 0.310 g, 98%) that was used as such for the next step.

reactant | 4-benzyloxybenzamide | 1.10 mmol, 0.25 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N)C=C1 | C14H13NO2
reactant | chlorocarbonylsulfenyl chloride | 2.20 mmol, 0.18 ml | ClC(=O)SCl | CCl2OS
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Benzyloxyphenyl)-[1,3,4]oxathiazol-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(O1)=O | C15H11NO3S
